US06531597B2
A 185 ml stainless steel autoclave was charged under argon with 25 ml of dichloromethane, 22.30 ml (0.25 mol) of trifluoromethane sulfonic acid and 0.45 ml (25 mmol) of water. The autoclave was sealed and pressurized with 30 bar of carbon monoxide. Then under stirring a solution of 14.13 g (50 mmol) of 2-(3,5-bis-trifluoromethyl-phenyl)-propan-2-ol in 35 ml of dichloromethane was added with a pump within 50 min at 20° C. and the reaction mixture was stirred for additional 2 h. Thereafter the autoclave was vented and the biphasic reaction mixture was treated in an ice bath with a solution of 13.2 g of sodium hydroxide in 130 ml of water. The organic phase was removed and the aqueous phase was washed with dichloromethane. After filtration, 35 ml of 36.5% hydrochloric acid solution were added to the aqueous phase under stirring at 8-12° C. The resulting suspension was extracted twice with dicloromethane and, after drying with sodium sulfate, the organic phase was evaporated and the solid residue dried at room temperature and 10 mbar vacuum. 14.98 g of 2-(3,5-bis-trifluoromethylphenyl)-2-methyl-propionic acid were isolated as light brown crystals with m.p. 105.5-107° C. and 99.0% purity according to HPLC analysis.

reactant | trifluoromethane sulfonic acid | 0.25 mol, 22.30 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | carbon monoxide | [C]=O | CO
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-propan-2-ol | 50 mmol, 14.13 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)(C)O)(F)F | C11H10F6O
reactant | sodium hydroxide | 13.2 g | [OH-].[Na+]
reactant | water | 130 ml | O | H2O
reactant | water | 25 mmol, 0.45 ml | O | H2O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(3,5-bis-trifluoromethylphenyl)-2-methyl-propionic acid | 14.98 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)(C)C)(F)F | C12H10F6O2
